US05523278
Preparation of Methyl 6-fluoro-5-nitro-1,2-benzisoxazole-3-acetate
Methyl 6-fluoro-1,2-benzisoxazole-3-acetate (6.0 g, 28.7 mmol) is added portionwise to nitric acid (90%, 60 mL) at 0° C. The reaction mixture is stirred at 0° C. for 30 minutes and poured into an ice/water mixture. The aqueous mixture is extracted with methylene chloride. The organic extracts are combined, washed sequentially with water, saturated sodium hydrogen carbonate solution and brine, dried over anhydrous magnesium sulfate and concentrated in vacuo to obtain a yellow oil. Flash column chromatography of the oil using silica gel and ether/petroleum ether solutions gives the title product as a pale yellow solid which is identified by 1HNMR spectral analysis.

reactant | Methyl 6-fluoro-1,2-benzisoxazole-3-acetate | 28.7 mmol, 6.0 g | FC1=CC2=C(C(=NO2)CC(=O)OC)C=C1 | C10H8FNO3
reactant | nitric acid | 60 mL | [N+](=O)(O)[O-] | HNO3
product | Methyl 6-fluoro-5-nitro-1,2-benzisoxazole-3-acetate | FC1=CC2=C(C(=NO2)CC(=O)OC)C=C1[N+](=O)[O-] | C10H7FN2O5
